US07718652B2
In an analogous manner to Example 11 step 4, a solution of 1-(2-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (0.75 g, 2.7 mmol) was reacted with 4-bromobutanol (0.83 mL, 5.2 mmol) to afford 3-(4-bromobutyl)-1-(2-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (0.74 g, 66%) as a white solid:

reactant | 1-(2-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 2.7 mmol, 0.75 g | FC1=C(C=CC=C1)N1S(NCC2=C1C=CC=C2)(=O)=O | C13H11FN2O2S
reactant | 4-bromobutanol | 5.2 mmol, 0.83 mL | BrCCCCO | C4H9BrO
product | 3-(4-bromobutyl)-1-(2-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 0.74 g, 66% | BrCCCCN1S(N(C2=C(C1)C=CC=C2)C2=C(C=CC=C2)F)(=O)=O | C17H18BrFN2O2S
